US07601844B2
Step 3: tert-Butyl 5-chloro-3H-spiro[isobenzofuran-1,4′-piperidine]-1′-carboxylate
A solution of tert-butyl 4-(4-chloro-2-(hydroxymethyl)phenyl)-4-hydroxypiperidine-1-carboxylate (1.3 g, 3.80 mmol) and triphenylphosphine (1.496 g, 5.70 mmol) in THF (20 mL) was treated with DEAD (0.903 mL, 5.70 mmol), and the mixture was stirred overnight at room temperature. The mixture was concentrated in-vacuo, and the residue was purified over silica gel, eluting with ethyl acetate/hexanes (5%-25% ethyl acetate), to yield the title compound (1.19 g, 3.67 mmol, 97% yield) as a colorless oil.

reactant | tert-butyl 4-(4-chloro-2-(hydroxymethyl)phenyl)-4-hydroxypiperidine-1-carboxylate | 3.80 mmol, 1.3 g | ClC1=CC(=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O)CO | C17H24ClNO4
reactant | triphenylphosphine | 5.70 mmol, 1.496 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 5.70 mmol, 0.903 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-chloro-3H-spiro[isobenzofuran-1,4′-piperidine]-1′-carboxylate | 3.67 mmol, 1.19 g, 97% yield | ClC=1C=C2COC3(CCN(CC3)C(=O)OC(C)(C)C)C2=CC1 | C17H22ClNO3
